US07576165B2
Synthesis of 2-(allylthio)pyrimidine (Scheme 22)
10 mmole of 2-mercaptopyrimidine was dissolved in 20 ml of ethanol in stirring. 10 mole of EtOK was added to the solution, stirred for 5 minutes. At last, about 20 mmole (Not more than 30 mmole) of 3-chloropropylene was added, and stirred overnight. The white precipitate was removed by filtration, the solvent in the filtrate was removed in vacuum. The obtained viscous liquid was separated with a Si gel column (solvents: 1 ethylacetate/3 hexane). 1H NMR (CD3Cl): δ(ppm) 8.39 (2H, d, JH-H=4.74), 6.86 (1H, t, JH-H=4.74), 5.89 (1H, m), 5.20 (1H, d, JH-H=17.00), 5.00 (1H, d, JH-H=9.97), 3.71 (2H, d, JH-H=6.83). Yield: 90%.

reactant | 2-mercaptopyrimidine | 10 mmole | SC1=NC=CC=N1 | C4H4N2S
reactant | EtOK | 10 mole | C(C)O[K]
reactant | 3-chloropropylene | ClCC=C | C3H5Cl
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(allylthio)pyrimidine | Yield: 90% | C(C=C)SC1=NC=CC=N1 | C7H8N2S
